US05162345
(e) (E)-3-(2-Formylphenyl)-2-ethyl-2-propenoic acid 1,1-dimethylethyl ester
From o-phthalaldehyde and 2-(triphenylphosphoranylidene)-butanoic acid 1,1-dimethylethyl ester.

reactant | o-phthalaldehyde | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
reactant | 2-(triphenylphosphoranylidene)-butanoic acid 1,1-dimethylethyl ester | CC(C)(C)OC(C(CC)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H29O2P
product | (E)-3-(2-Formylphenyl)-2-ethyl-2-propenoic acid 1,1-dimethylethyl ester | CC(C)(C)OC(\C(=C\C1=C(C=CC=C1)C=O)\CC)=O | C16H20O3
